US07705042B2
b) 4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-morpholine
The procedure of Example 4, step (b) was followed using 304 mg (1.19 mmol) of 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine (as prepared in the previous step) and 519 μL (5.95 mmol) of morpholine to afford 363 mg (106%) of the title compound as a yellow resin: Mass spectrum (ESI, m/z): Calcd. for C16H23N3O3, 306.2 (M+H), found 306.1.

reactant | 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine | 1.19 mmol, 304 mg | ClC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15ClN2O2
reactant | morpholine | 5.95 mmol, 519 μL | N1CCOCC1 | C4H9NO
product | 4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-morpholine | 363 mg, 106% | CC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCOCC1 | C16H23N3O3
